US04835306
To a 5-liter, 3-necked, round-bottom flask is added 160 g of 4-hydroxy-3-nitrobenzoic acid, 150 cc concentrated hydrochloric acid, 3 liters of distilled water and 25 g of 5 percent palladium on carbon. The reaction mixture is heated to 95° C. with vigorous stirring and hydrogen gas is passed into the reaction mixture. Upon completion, the reaction is cooled to room temperature under nitrogen gas and the catalyst is recovered by filtration. The resulting solution is poured into two 4-liter beakers and acidified with concentrated hydrochloric acid to a normality of 4 and allowed to cool to 0° C. The resulting solid is isolated by filtration and dried under vacuum to afford 176 g of crude 3-amino-4-hydroxybenzoic acid hydrochloride monohydrate with a melting point of 300° C. decomposition.

reactant | 4-hydroxy-3-nitrobenzoic acid | 160 g | OC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H5NO5
reactant | hydrochloric acid | 150 cc | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 25 g | [Pd] | Pd
solvent | water | 3 liters | O | H2O
product | 3-amino-4-hydroxybenzoic acid hydrochloride monohydrate | 176 g | O.Cl.NC=1C=C(C(=O)O)C=CC1O | InChI=1S/C7H7NO3.ClH.H2O/c8-5-3-4(7(10)11)1-2-6(5)9;;/h1-3,9H,8H2,(H,10,11);1H;1H2
